US03984467
Following a procedure similar to that described in Example 1 but using 2.06 g. sodium in 250 ml. dry acetone, 9.2 g. acetamidine hydrochloride and 16 g. 3-chloro-4-cyanophenyl isocyanate in 250 ml. dry acetone, there was obtained after filtration of the reaction mixture a solid which on washing with water and recrystallization from methyl alcohol gave 1-(3-chloro-4-cyanophenyl)3 -(acetimidoyl)urea; m.p.182°-183°C.

reactant | sodium | [Na] | Na
reactant | acetamidine hydrochloride | Cl.C(C)(=N)N
reactant | 3-chloro-4-cyanophenyl isocyanate | ClC=1C=C(C=CC1C#N)N=C=O | C8H3ClN2O
solvent | acetone | CC(=O)C | C3H6O
product | 1-(3-chloro-4-cyanophenyl)3 -(acetimidoyl)urea | ClC=1C=C(C=CC1C#N)NC(=O)NC(C)=N | C10H9ClN4O
